US04060636
To a solution of 3-(nitro-4-n-butylamino)-benzophenone (5.96 g.; 0.02 mole) in ethanol (200 ml.) is added palladium on charcoal (5%; 0.1 g.). The mixture is hydrogenated until theoretical uptake of hydrogen has occurred (about 3 hours) and then let stand at room temperature overnight. The reaction mixture is filtered to remove the catalyst and the filtrate concentrated under vacuum to afford 4.75 g. (88.6% yield) of 3-amino-4-n-butylaminobenzophenone.

reactant | 3-(nitro-4-n-butylamino)-benzophenone | 0.02 mole, 5.96 g | [N+](=O)([O-])N(C=1C=C(C(=O)C2=CC=CC=C2)C=CC1)CCCC | C17H18N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
product | 3-amino-4-n-butylaminobenzophenone | 88.6% yield | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1NCCCC | C17H20N2O
